US06407096B1
3-oxo-4-(2-(benzyloxy)ethyl)-8-(trifluoromethanesulfonyloxy)-3,4-dihydro-2H-1,4-benzoxazine
8-hydroxy-3-oxo-4-(2-(benzyloxy)ethyl)-3,4-dihydro-2H-1,4-benzoxazine (1.10 g) was dissolved in dichloromethane (18 ml), and 2,6-lutidine (0.85 ml) and trifluoromethanesulfonic anhydride (1.50 ml) were added to the resultant solution, and the mixture was stirred at −78° C. for 1.5 hours. The reaction solution was poured into a saturated ammonium chloride aqueous solution, and then extracted with ethyl acetate. The resultant organic layer was dried over magnesium sulfate, and concentrated. The residue was purified by column chromatography (silica gel:hexane/ethyl acetate=2/1) to obtain the object compound (1.40 g, yield 89%).

reactant | 8-hydroxy-3-oxo-4-(2-(benzyloxy)ethyl)-3,4-dihydro-2H-1,4-benzoxazine | 1.10 g | OC1=CC=CC=2N(C(COC21)=O)CCOCC2=CC=CC=C2 | C17H17NO4
reactant | 2,6-lutidine | 0.85 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 1.50 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | 3-oxo-4-(2-(benzyloxy)ethyl)-8-(trifluoromethanesulfonyloxy)-3,4-dihydro-2H-1,4-benzoxazine | 1.40 g, yield 89% | O=C1COC2=C(N1CCOCC1=CC=CC=C1)C=CC=C2OS(=O)(=O)C(F)(F)F | C18H16F3NO6S
